US08048901B2
(1R,3S)—C,C,C-Trifluoro-N-{3-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]propyl}methanesulfonamide
95 mg of (1R,3S)-3-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]propylamine are dissolved in 2 ml of dichloromethane, 0.1 ml of triethylamine are added and the mixture is cooled to −78° C. 60 μl of trifluoromethanesulfonic anhydride are added, and the mixture is slowly allowed to warm to room temperature. After 3 h all volatile components were removed under reduced pressure and the residue was taken up in DMF and filtered. The compound is purified by RP-HPLC. This gives (1R,3S)—C,C,C-trifluoro-N-{3-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]propyl}methanesulfonamide as a colorless oil. C22H29F3N2O5S (490.55), MS (ESI): 491 (M+H+).

reactant | (1R,3S)-3-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]propylamine | 95 mg | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCCCN | C21H30N2O3
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 60 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (1R,3S)—C,C,C-Trifluoro-N-{3-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]propyl}methanesulfonamide | FC(S(=O)(=O)NCCCO[C@H]1C[C@H](CCC1)OCC=1N=C(OC1C)C=1C=C(C=CC1)C)(F)F | C22H29F3N2O5S
